US07897607B2
1-Mesityl-4-(propylamino)-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one
A mixture of 4-amino-1-mesityl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one (50 mg, 0.19 mmol), propionaldehyde (0.034 ml, 0.47 mmol), AcOH (0.013 ml, 0.224 mmol) and dichloromethane (10 ml) was stirred for 30 min before addition of NaBH(OAc)3 (99 mg, 0-47 mmol). The mixture was stirred for 3 hours, then washed with saturated sodium bicarbonate (20 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (1:1-1:2) to give 19.4 mg (34%) of the title compound as crystals.

reactant | 4-amino-1-mesityl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 0.19 mmol, 50 mg | NC=1C2=C(C(NN1)=O)N(C=C2)C2=C(C=C(C=C2C)C)C | C15H16N4O
reactant | propionaldehyde | 0.47 mmol, 0.034 ml | C(CC)=O | C3H6O
reactant | AcOH | 0.224 mmol, 0.013 ml | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0-47 mmol, 99 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-Mesityl-4-(propylamino)-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 19.4 mg, 34% | C1(=C(C(=CC(=C1)C)C)N1C=CC2=C1C(NN=C2NCCC)=O)C | C18H22N4O
